US06949542B2
(5-Methoxy-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester was prepared via the di-Boc-compound from 5-methoxy-2-nitro-4-trifluoromethyl-phenylamine [prepared by stirring commercially available 5-chloro-2-nitro-4-trifluoromethyl-phenylamine [CAS-No. 35375-74-7], methanol and KOH in DMSO at 23° C. for 10 days] (4.14 g, 17.5 mmol) and Boc2O (8.04 g, 36.8 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c). Obtained as a yellow solid (5.86 g).

reactant | 5-methoxy-2-nitro-4-trifluoromethyl-phenylamine | COC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C8H7F3N2O3
reactant | 5-chloro-2-nitro-4-trifluoromethyl-phenylamine | ClC=1C(=CC(=C(C1)N)[N+](=O)[O-])C(F)(F)F | C7H4ClF3N2O2
reactant | KOH | [OH-].[K+]
reactant | Boc2O | 36.8 mmol, 8.04 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | (5-Methoxy-2-nitro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OC)C(F)(F)F)[N+](=O)[O-])=O | C13H15F3N2O5
